US06462038B1
This compound was prepared by General Method 4 (EXAMPLE 1) from (+)-3,4-dihydro-7-nitro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-2H-1,4-benzoxazine (45 mg, 0.16 mmol) and 10% Pd-C (30 mg) and purified by flash chromatography (EtOAc:hexanes, 1:1) to afford 26 mg (65%) of (±)-7-amino-3,4-dihydro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-2H-1,4-benzoxazine. Data for (±)-7-amino-3,4-dihydro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-2H-1,4-benzoxazine: 1H NMR (400 MHz, CDCl3) 6.68 (d, 1H, J=8.4), 6.32-6.28 (m, 2H), 4.56 (dd, 1H, J=12.0, 0.96), 4.16-4.00 (m, 2H), 3.84-3.69 (m, 2H), 3.60-3.32 (m, 2H).

reactant | (+)-3,4-dihydro-7-nitro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-2H-1,4-benzoxazine | 0.16 mmol, 45 mg | [N+](=O)([O-])C1=CC2=C(N(C(CO2)C(F)(F)F)CC(F)(F)F)C=C1 | C11H8F6N2O3
catalyst | Pd-C | 30 mg | [Pd] | Pd
product | (±)-7-amino-3,4-dihydro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-2H-1,4-benzoxazine | 26 mg, 65% | NC1=CC2=C(N(C(CO2)C(F)(F)F)CC(F)(F)F)C=C1 | C11H10F6N2O
